US09283555B2
N1-(2-n-propylphenyl)-4-methylbenzamidine (Amidine XI)
Procedure as described for Amidine X using the following amounts: 6.00 mL of 2-n-propylaniline (42.6 mmol); 21.3 mL of 2.0 M butyllithium (42.6 mmol); 5.00 g of toluonitrile (42.6 mmol). Filtration of the final pentane solution yielded 9.53 g (89%) of light yellow solid. 1H NMR (400 MHz, CDCl3): 7.76 (d, 2H), 7.22 (m, 3H), 7.15 (t, 1H), 6.99 (t, 1 H), 6.84 (d, 1 H), 4.69 (s, 2H), 2.51 (t, 2H), 2.39 (s, 3H), 1.58 (m, 2H), 0.90 (t, 3H).

reactant | 2-n-propylaniline | 42.6 mmol, 6.00 mL | C(CC)C1=C(N)C=CC=C1 | C9H13N
reactant | butyllithium | 42.6 mmol, 2.0 M, 21.3 mL | C(CCC)[Li]
reactant | toluonitrile | 42.6 mmol, 5.00 g | C=1(C(=CC=CC1)C#N)C | C8H7N
product | N1-(2-n-propylphenyl)-4-methylbenzamidine | C(CC)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C)=N | C17H20N2
